US07465731B2
To a suspension of (2E)-3-{6-[(1-benzoyl-4-piperidyl)amino]-3-pyridyl}acrylic acid (170 mg) in DMF (3 ml) was added O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (62.3 mg), EDCI HCl (102 mg), HOBt (71.9 mg), Et3N (0.201 ml), the mixture was stirred at 23° C. for 8 hours. The mixed solution was poured into a mixture of water (20 ml) and AcOEt (20 ml). The organic layer was separated, washed with water twice and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with 8% MeOH in dichloromethane to give (2E)-3-{6-[(1-benzoyl-4-piperidyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (50 mg).

reactant | (2E)-3-{6-[(1-benzoyl-4-piperidyl)amino]-3-pyridyl}acrylic acid | 170 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)O | C20H21N3O3
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 62.3 mg | O1C(CCCC1)ON | C5H11NO2
reactant | EDCI HCl | 102 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 71.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | Et3N | 0.201 ml | CCN(CC)CC | C6H15N
product | (2E)-3-{6-[(1-benzoyl-4-piperidyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 50 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)NOC1OCCCC1 | C25H30N4O4
